US05834506
1,5-Bis-(4-benzyloxy-phenyl)-penta-1,4-dien-3-one
The title compound was prepared as described in General Method 1 using 42.4 g (0.2 mol) 4-benzyloxybenzaldehyde, 700 mL absolute ethanol (EtOH), 5.8 g (0.1 mol) acetone and 10 mL 10% NaOH. The reaction was refluxed for 2 hours. After cooling the reaction was filtered, and the resultant solid dried. It was used without further purification in the next reaction. 1H NMR (CDCl3) δ 5.11 (s, 4 H), 6.91-7.01 (m, 6 H), 7.34-7.45 (m, 10 H), 7.57 (m, 4 H), 7.69 (d, 2 H).

reactant | 4-benzyloxybenzaldehyde | 0.2 mol, 42.4 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | acetone | 0.1 mol, 5.8 g | CC(=O)C | C3H6O
reactant | NaOH | 10 mL | [OH-].[Na+]
solvent | ethanol | 700 mL | C(C)O | C2H6O
product | 1,5-Bis-(4-benzyloxy-phenyl)-penta-1,4-dien-3-one | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=CC(C=CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C31H26O3
